US07465795B2
4-amino-8-(2-naphthyl)-N-propyl-cinnoline-3-carboxamide
Using method A, 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide (100 mg, 0.33 mmol) and 2-naphthalene boronic acid (167 mg, 0.97 mmol) were reacted to afford the title compound (99 mg, 86.9% yield) as a pale-yellow solid. 1H NMR (300 MHz, CDCl3) δ 8.58 (br, 1H), 8.11 (s, 1H), 7.83-7.99 (m, 6H), 7.76 (dd, J=8.0 Hz, J′=7.1 Hz, 1H), 7.46-7.55 (m, 2H), 3.46 (q, J=6.7 Hz, 2H), 1.66 (m, J=7.2 Hz, 2H), 1.00 (t, J=7.4 Hz, 3H) MS APCI, m/z=357 (M+H) HPLC 2.11 min.

reactant | 4-amino-8-bromo-N-propyl-cinnoline-3-carboxamide | 0.33 mmol, 100 mg | NC1=C(N=NC2=C(C=CC=C12)Br)C(=O)NCCC | C12H13BrN4O
reactant | 2-naphthalene boronic acid | 0.97 mmol, 167 mg | C1=C(C=CC2=CC=CC=C12)B(O)O | C10H9BO2
product | 4-amino-8-(2-naphthyl)-N-propyl-cinnoline-3-carboxamide | 99 mg, 86.9% yield | NC1=C(N=NC2=C(C=CC=C12)C1=CC2=CC=CC=C2C=C1)C(=O)NCCC | C22H20N4O
